US07521446B2
(S)-(−)-4-azido-2-pyrrolidinone
To an ice cooled solution of (R)-(+)-4-hydroxy-2-pyrrolidinone (25.0 g., 247 mmol) in dichloromethane (300 mL) was added triethylamine (17.0 g., 168.7 mmol) and methane sulfonyl chloride (21 mL, 272 mmol) dropwise. The solution was stirred at ambient temperature for one hour. The reaction was monitored via TLC (100% ethyl acetate using permanganate stain). The solution was then condensed under reduced pressure to give a solid. The solid was diluted with DMF (300 mL) followed by the addition of sodium azide (48.24 g., 742 mmol). The solution was heated to 60° C. for 3 hours. The reaction was monitored via TLC (100% ethyl acetate using permanganate stain). The solution was then condensed under reduced pressure and the resultant oil purified via silica gel chromatography (50-80% acetate/hexanes followed by 12% methanol/dichloromethane) to afford the title compound (10.2 g., 32%). 1H-NMR (CD3OD) δ 4.43 (m, 1H), 3.71 (dd, 1H), 3.34 (m, 1H), 2.75 (dd, 1H), 2.29 (dd, 1H).

reactant | (R)-(+)-4-hydroxy-2-pyrrolidinone | 247 mmol, 25.0 g | O[C@@H]1CC(NC1)=O | C4H7NO2
reactant | triethylamine | 168.7 mmol, 17.0 g | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 272 mmol, 21 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
reactant | sodium azide | 742 mmol, 48.24 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-(−)-4-azido-2-pyrrolidinone | 10.2 g, 32% | N(=[N+]=[N-])[C@H]1CC(NC1)=O | C4H6N4O
